US07919504B2
(±)-2-(tert-Butyldimethylsilyloxy)-N-(5-(isoquinolin-6-yl)-1,3,4-thiadiazol-2-yl)-3-phenylpropanamide (0.44 g, 0.9 mmol) was taken up in 9 mL of THF and chilled to 0° C. Lithium aluminum hydride (4 mL, 1.0 M in THF) was added. After 1 hour, the mixture was poured into 50 mL of ½ saturated aqueous Rochelle's salt and diluted with 25 mL of ether. The mixture was stirred for 1 hour. The mixture was partitioned in a separatory funnel, and the aqueous portion was extracted twice with 50 mL of EtOAc. The combined organic extracts were washed with 50 mL of brine and dried over MgSO4. Filtration and concentration under reduced pressure, followed by purification by flash chromatography on silica gel (eluting with a gradient of 2% to 10% MeOH in DCM) afforded (±)-1-(5-(isoquinolin-6-yl)-1,3,4-thiadiazol-2-ylamino)-3-phenylpropan-2-ol (0.005 g, 2%) as a yellow oil. LCMS (M+H) 363 calc. for C20H19N4OS 363.1. 1H NMR (400 MHz, CD3OD): ppm 9.27 (s, 1H), 8.50 (d, J=5.2 Hz, 1H), 8.24 (s, 1H), 8.20 (d, J=1.5 Hz, 2H), 7.90 (d, J=5.8 Hz, 1H) 7.33-7.29 (m, 5H), 7.26-7.22 (m, 1H), 4.14-4.10 (m, 1H), 3.60 (dd, J=3.9 Hz, 13.5 Hz, 1H), 3.40 (dd, J=7.5 Hz, 13.5 Hz, 1H), 2.91 (dd, J=5.4 Hz, 13.7 Hz, 1H), 2.82 (dd, J=7.6 Hz, 13.7 Hz, 1H). 1H not detected.

reactant | (±)-2-(tert-Butyldimethylsilyloxy)-N-(5-(isoquinolin-6-yl)-1,3,4-thiadiazol-2-yl)-3-phenylpropanamide | 0.9 mmol, 0.44 g | [Si](C)(C)(C(C)(C)C)OC(C(=O)NC=1SC(=NN1)C=1C=C2C=CN=CC2=CC1)CC1=CC=CC=C1 | C26H30N4O2SSi
reactant | Lithium aluminum hydride | 1.0 M, 4 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Rochelle's salt | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
solvent | THF | 9 mL | C1CCOC1 | C4H8O
solvent | ether | 25 mL | CCOCC | C4H10O
product | (±)-1-(5-(isoquinolin-6-yl)-1,3,4-thiadiazol-2-ylamino)-3-phenylpropan-2-ol | 0.005 g, 2% | C1=NC=CC2=CC(=CC=C12)C1=NN=C(S1)NCC(CC1=CC=CC=C1)O | C20H18N4OS
